US08431596B2
(5-{1-[2-(5-Amino-4H-[1,2,4]triazol-3-ylsulfanyl)-ethyl]-1H-pyrazol-4-yl}-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-327)
To a stirred solution of methanesulfonic acid 2-(4-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-pyrazol-1-yl)-ethyl ester (0.40 g, 0.78 mmol) in dimethylformamide (1 ml) was added potassium carbonate (150 mg) followed by 3-amino-5-mercapto-1,2,4-triazole (19 mg, 0.156 mmol). The mixture was stirred for 18 hours at room temperature, then filtered and concentrated in vacuo. The title compound was purified by preparatory HPLC to yield the desired product. LCMS method: 2, RT: 2.15 min, MI: 532 [M+1]; 1H NMR (300 MHz, DMSO) 9.35 (s, 1H), 8.81 (s, 1H), 8.45 (s, 1H), 8.22 (s, 2H), 7.58 (d, 2H), 7.55 (d, 1H), 7.40 (dd, 2H), 6.85 (d, 2H), 6.13 (s, 1H), 4.51 (t, 2H), 3.98 (t, 2H), 3.48 (t, 2H), 2.75 (t, 2H), 2.49 (s, 4H), 1.65 (s, 4H).

reactant | methanesulfonic acid 2-(4-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-pyrazol-1-yl)-ethyl ester | 0.78 mmol, 0.40 g | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=NN(C2)CCOS(=O)(=O)C)=N1 | C24H29N7O4S
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-5-mercapto-1,2,4-triazole | 0.156 mmol, 19 mg | NC1=NNC(=N1)S | C2H4N4S
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (5-{1-[2-(5-Amino-4H-[1,2,4]triazol-3-ylsulfanyl)-ethyl]-1H-pyrazol-4-yl}-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | NC=1NC(=NN1)SCCN1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H29N11OS
